US06995144B2
3-[4-[2-(2-Fluorophenyl)acetyl]piperidino]methyl-6-methyl-1H-pyrazin-2-one
After dissolving 352 mg of 1-[1-(3-methoxy-5-methyl-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-fluorophenyl)ethanone in 3 ml of dichloromethane, 0.5 ml of iodotrimethylsilane was added and the mixture was stirred for 45 minutes at room temperature. Next, 2 ml of iodotrimethylsilane was added and the mixture was further stirred for 2 hours at room temperature. Water was added to the reaction solution, the mixture was rendered alkaline with sodium carbonate, and extraction was performed with dichloromethane. The extract was dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: ethyl acetate/methanol). Diethyl ether was added and the mixture was filtered to obtain the title compound (92 mg, 27% yield).

reactant | 1-[1-(3-methoxy-5-methyl-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-fluorophenyl)ethanone | 352 mg | COC=1C(=NC=C(N1)C)CN1CCC(CC1)C(CC1=C(C=CC=C1)F)=O | C20H24FN3O2
reactant | Water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | iodotrimethylsilane | 0.5 ml | I[Si](C)(C)C | C3H9ISi
solvent | iodotrimethylsilane | 2 ml | I[Si](C)(C)C | C3H9ISi
product | 3-[4-[2-(2-Fluorophenyl)acetyl]piperidino]methyl-6-methyl-1H-pyrazin-2-one | 92 mg, 27% yield | FC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC=1C(NC(=CN1)C)=O | C19H22FN3O2
